US06110913
3-Chloro-10,11-dihydro-5H-dibenz[b,f]azepine (3.82 g, 16.6 mmol) was dissolved in toluene (20 ml). A solution of 3-chloropropionylchloride (2.53 g, 19.9 mmol) in toluene was added dropwise, and the resulting mixture was heated to 95° C. and stirred at that temperature for 30 minutes. The mixture was stirred overnight at room temperature. Further 3-chloropropionylchloride (2.53 g, 19.9 mmol) was added and the mixture was stirred at 95° C. for 1.5 h. After cooling, 0.2 M sodium hydroxide (10 ml) was added, and the phases were separated. The organic phase was diluted with more toluene (50 ml): and washed with first 0.2 M sodium hydroxide (6×10 ml) and then with more 0.2 M sodium hydroxide (3×20 ml) until the aqueous phase was alkaline. The organic phase was washed with water (3×15 ml), brine (25 ml), and dried (MgSO4). Evaporation in vacuo afforded 5.23 g (98%) of crude 3-chloro-1-(3-chloro-10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propanone as an oil. This was further purified by addition of a mixture of heptane and ethyl acetate (1:1). This afforded 3.14 g (59%) of the product as a solid.

reactant | 3-Chloro-10,11-dihydro-5H-dibenz[b,f]azepine | 16.6 mmol, 3.82 g | ClC=1C=CC2=C(NC3=C(CC2)C=CC=C3)C1 | C14H12ClN
reactant | 3-chloropropionylchloride | 19.9 mmol, 2.53 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | 3-chloropropionylchloride | 19.9 mmol, 2.53 g | ClCCC(=O)Cl | C3H4Cl2O
reactant | sodium hydroxide | 0.2 M, 10 ml | [OH-].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-chloro-1-(3-chloro-10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propanone | 5.23 g, 98% | ClCCC(=O)N1C2=C(CCC3=C1C=CC=C3)C=CC(=C2)Cl | C17H15Cl2NO
